US09290517B2
Step C 5-chloro-6-iodopyridine-2,3-diamine
To a suspension of 5-chloro-6-iodo-3-nitropyridin-2-amine (18.9 g, 63.1 mmol) in EtOH (100 mL) was added tin (II) chloride dihydrate (57 g, 252 mmol). The mixture was heated at 70° C. for 0.5 h. The r×n was warmed to rt and treated with a slurry of 150 mL water and 60 g KF and stirred for 0.5 h. The mixture was then partitioned between ethyl acetate (300 mL) and water (300 mL). The ethyl acetate layer was washed with brine, dried over magnesium sulfate and filtered through a 100 g pad of silica gel. The filtrate was concentrated and dried under vacuum to give an off-white solid, which was used in next step without further purification. LC-MS: calculated for C5H5ClIN3 269.47, observed m/e: 269.99 (M+H)+ (Rt 1.35/5 min)

reactant | 5-chloro-6-iodo-3-nitropyridin-2-amine | 63.1 mmol, 18.9 g | ClC=1C=C(C(=NC1I)N)[N+](=O)[O-] | C5H3ClIN3O2
reactant | tin (II) chloride dihydrate | 252 mmol, 57 g | O.O.[Sn](Cl)Cl
reactant | water | 150 mL | O | H2O
reactant | KF | 60 g | [F-].[K+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 5-chloro-6-iodopyridine-2,3-diamine | ClC=1C=C(C(=NC1I)N)N | C5H5ClIN3
